US06653334B1
Synthesis of tert-Butyl 2-[2-(2-Aminocarbonylethyl)phenoxy]-2-methylpropionate
3-(2-Hydroxyphenyl)propionamide (5.6 g, 33.9 mmol) was dissolved in acetonitrile (15 mL), and potassium carbonate (18.7 g, 135 mmol) was added thereto. Subsequently, tert-butyl 2-bromoisobutyrate (30.3 g, 135 mmol) was added, and the mixture was stirred at 80° C. After completion of reaction, water was added thereto, and the resultant mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, followed by drying over sodium sulfate, concentration under reduced pressure, and purification by silica gel chromatography (chloroform/methanol=40/1), whereby the target compound was obtained (2.67 g, 26%).

reactant | 3-(2-Hydroxyphenyl)propionamide | 33.9 mmol, 5.6 g | OC1=C(C=CC=C1)CCC(=O)N | C9H11NO2
reactant | potassium carbonate | 135 mmol, 18.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl 2-bromoisobutyrate | 135 mmol, 30.3 g | BrC(C(=O)OC(C)(C)C)(C)C | C8H15BrO2
reactant | water | O | H2O
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | tert-Butyl 2-[2-(2-Aminocarbonylethyl)phenoxy]-2-methylpropionate | NC(=O)CCC1=C(OC(C(=O)OC(C)(C)C)(C)C)C=CC=C1 | C17H25NO4
